US06620835B2
Step (b) 7-Bromo-dibenzofuran-2-sulfonyl chloride
Chlorosulfonic acid (3.75 mL, 56 mmoles) was added dropwise to a solution of 3-bromo-dibenzofuran (9.21 g, 37.3 mmoles) in 150 mL of chloroform at room temperature. The reaction was stirred for 5 hours, cooled to 0° C., filtered, and washed the solid with cold dichloromethane. This solid (6.12 g, 18.7 mmoles) was mixed with phosphorous pentachloride (12.9 g, 61.7 mmoles) and the mixture was heated to 110° C. for 4 hours. The mixture was cooled to room temperature and quenched with ice water. Filtered the resulting suspension to give the title compound as a white solid.

reactant | Chlorosulfonic acid | 56 mmoles, 3.75 mL | ClS(=O)(=O)O | ClHO3S
reactant | 3-bromo-dibenzofuran | 37.3 mmoles, 9.21 g | BrC=1C=CC2=C(OC3=C2C=CC=C3)C1 | C12H7BrO
reactant | phosphorous pentachloride | 61.7 mmoles, 12.9 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | chloroform | 150 mL | C(Cl)(Cl)Cl | CHCl3
product | 7-Bromo-dibenzofuran-2-sulfonyl chloride | BrC1=CC2=C(C3=C(O2)C=CC(=C3)S(=O)(=O)Cl)C=C1 | C12H6BrClO3S
